US09278938B2
4-Formylimidazole (20.0 g, 208.14 mmol) and p-toluenesulfonyl chloride (43.7 g, 229.0 mmol) were suspended in N,N-dimethylacetamide (200 mL). To the obtained suspension was added dropwise triethylamine (23.2 g, 229.0 mmol) at 10° C. or below, and the mixture was stirred at 10° C. or below for 1 hr or more. To the reaction mixture was added n-heptane (60 mL) at 30° C. or below. To the obtained solution was added dropwise water (240 mL) at 30° C. or below for crystallization. The mixture was stirred at room temperature for 1 hr or more to give crystals. The obtained crystals were collected by filtration, and washed with water (300 mL) to give wet crystals. The obtained wet crystals were dried under reduced pressure at an outside temperature of 50° C. to give 1-tosyl-4-formyl-1H-imidazole (44.2 g, 176.6 mmol). yield 85%.

reactant | 4-Formylimidazole | 208.14 mmol, 20.0 g | C(=O)C=1N=CNC1 | C4H4N2O
reactant | p-toluenesulfonyl chloride | 229.0 mmol, 43.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 229.0 mmol, 23.2 g | C(C)N(CC)CC | C6H15N
reactant | n-heptane | 60 mL | CCCCCCC | C7H16
solvent | N,N-dimethylacetamide | 200 mL | CN(C(C)=O)C | C4H9NO
solvent | water | 240 mL | O | H2O
product | 1-tosyl-4-formyl-1H-imidazole | 176.6 mmol, 44.2 g, yield 85% | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=NC(=C1)C=O | C11H10N2O3S
